US05399703
Step 2 Ethyl 2-(2-aminophenylthio)benzoate
In 130 ml of ethanol was suspended 22.5 g of ethyl 2-(2-nitrophenylthio)benzoate and, then, a solution of 58.7 g of tin(IV) chloride dihydrate in a mixture of 70 ml of concentrated hydrochloric acid and 45 ml of ethanol was added en bloc. The mixture was stirred at room temperature for 3 hours, after which it was poured in a mixture of 600 ml of 10% aqueous sodium hydroxide solution and 500 ml of ether with cooling and stirring. The ether layer was separated, washed with water and saturated aqueous sodium chloride solution in that order and dried. Finally, the ether was distilled off to give 20.5 g of the title compound as a light yellow oil.

reactant | ethyl 2-(2-nitrophenylthio)benzoate | 22.5 g | [N+](=O)([O-])C1=C(C=CC=C1)SC1=C(C(=O)OCC)C=CC=C1 | C15H13NO4S
reactant | tin(IV) chloride dihydrate | 58.7 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
solvent | ethanol | 130 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 70 ml | Cl | ClH
solvent | ethanol | 45 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 600 ml | [OH-].[Na+]
solvent | ether | 500 ml | CCOCC | C4H10O
product | Ethyl 2-(2-aminophenylthio)benzoate | 20.5 g | NC1=C(C=CC=C1)SC1=C(C(=O)OCC)C=CC=C1 | C15H15NO2S
